US07057042B2
tert-butyl (1S,4S)-5-(2-pyridinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (1.0 g, 5.10 mmol, Aldrich) in 1,4-dioxane (10 mL) in a sealed tube was treated with 2-bromopyridine (0.40 g, 2.50 mmol, Aldrich) and heated at 150° C. for 12 hours. The mixture was allowed to cool to room temperature and was concentrated under reduced pressure. The residue was purified by flash chromatography (5% MeOH/CH2Cl2) to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ 1.48 (m, 9H), 1.86–1.94 (m, 2H), 3.30–3.58 (m, 4H), 4.52 (brs, 0.5H), 4.67 (brs, 0.5H), 4.80 (brs, 0.5H), 4.92 (brs, 0.5H), 6.32 (d, J=9.0 Hz, 1H), 6.57(t, J=6.0 Hz, 1H), 7.38–7.55 (m, 1H), 8.12 (d, J=6.0 Hz, 1H). MS (DCI/NH3) m/z 276 (M+H)+.

reactant | tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 5.10 mmol, 1.0 g | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 2-bromopyridine | 2.50 mmol, 0.40 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (1S,4S)-5-(2-pyridinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | N1=C(C=CC=C1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C15H21N3O2
